US09382222B2
A suspension of NaH (60% dispersion in mineral oil, 413 mg, 10.32 mmol) in dry DMF (12 mL) at 0° C. was treated dropwise with benzyl mercaptan (1.21 mL, 10.32 mmol). After the addition the mixture was stirred at room temperature for 15 minutes. 2-Chloro-5-(1-methanesulfonyl-piperidin-4-yloxy)-pyridine (1.00 g, 3.44 mmol) was added and the mixture stirred at room temperature for 18 hours, heated at 80° C. for a further 8 hours and allowed to cool overnight. The mixture was diluted with EtOAc, washed with water and brine, dried over Na2SO4 and concentrated under vacuum. Purified by silica gel column chromatography (30-50% EtOAc in cyclohexane) to give 2-benzylsulfanyl-5-(1-methanesulfonyl-piperidin-4-yloxy)-pyridine (659 mg, 51%). 1H NMR (300 MHz, CDCl3) δ 8.20 (br s, 1H), 7.40-7.34 (m, 2H), 7.32-7.18 (s, 4H), 7.14-7.05 (m, 2H), 4.52-4.43 (m, 1H), 4.39 (s, 2H), 3.36 (t, J=5.6 Hz, 4H), 2.82 (s, 3H), 2.08-1.91 (m, 4H). LCMS (m/z, Method A) ES+ 379.1 [M+1]+.

reactant | NaH | 10.32 mmol, 413 mg | [H-].[Na+]
reactant | benzyl mercaptan | 10.32 mmol, 1.21 mL | C(C1=CC=CC=C1)S | C7H8S
reactant | 2-Chloro-5-(1-methanesulfonyl-piperidin-4-yloxy)-pyridine | 3.44 mmol, 1.00 g | ClC1=NC=C(C=C1)OC1CCN(CC1)S(=O)(=O)C | C11H15ClN2O3S
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-benzylsulfanyl-5-(1-methanesulfonyl-piperidin-4-yloxy)-pyridine | 659 mg, 51% | C(C1=CC=CC=C1)SC1=NC=C(C=C1)OC1CCN(CC1)S(=O)(=O)C | C18H22N2O3S2
